US05286822
Bis(perfluoro-n-butyl) Sulfide/H2O Solvent Tetrafluoroethylene Homopolymer at 60° to 100° C.
A 400-mL pressure vessel was loaded with 100 ml of deionized water and 10 mL of bis(perfluoro-n-butyl) sulfide containing 0.2 ml of ~15% [(CF3)2CF]2CCF2CF3 radical in [(CF3)2CF]2C=CFCF3 precursor (K. Scherer et al., J. Am. Chem. Soc., 1985, 107, 718). The pressure vessel was then chilled and maintained around -20° C. while pulling the air off with a vacuum pump and finally adding 50 g of tetrafluoroethylene. Polymerization set in during warm up, exotherming from 464 psi at 63° C. to 456 psi at 99° C. over a 13-minute period. The pressure thereafter dropped, falling to 17 psi four to five hours later at 101° C. The product was washed once with 200 mL of 1:1 methanol:water and twice with 200 mL of Freon® 113, filtered, and dried under vacuum, giving 49.8 g of white powder (~100% conversion). Under melt indexer conditions, no melt flow was observed at 372° C. with a 15-kg weight.

reactant | bis(perfluoro-n-butyl) sulfide | 10 mL | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)SC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C8F18S
reactant | tetrafluoroethylene | 50 g | FC(=C(F)F)F | C2F4
reactant | water | 100 ml | O | H2O
product | Bis(perfluoro-n-butyl) Sulfide H2O | 49.8 g, ~100% | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)SC(C(C(C(F)(F)F)(F)F)(F)F)(F)F.O | InChI=1S/C8F18S.H2O/c9-1(10,5(17,18)19)3(13,14)7(23,24)27-8(25,26)4(15,16)2(11,12)6(20,21)22;/h;1H2
